US06770420B2
As described under 3.1, 86 g (0.7 mol) of thiophene-2-acetonitrile are charged, with stirring and in the presence of 28 g (0.7 mol) of sodium hydroxide in 210 ml of methanol, with 0.7 mol of gaseous methyl nitrite at 0-5° C. over 4.5 hours. The ice bath is then removed and the brown solution is stirred overnight at room temperature. The solvent is distilled off and the residue is charged with water and toluene. The aqueous phase is separated, washed twice with ethyl acetate and acidified with conc. HCl. The aqueous phase is extracted twice with toluene, the extracts are washed with water and dried over magnesium sulfate. After filtration, the solvent is distilled off and the remaining brown solid is recrystallised from toluene, giving 28.6 g (39% of theory) of α-hydroxyiminothiophene-2-acetonitrile in the form of a beige solid having a melting point of 105-109° C. The 1H-NMR spectrum is consistent with the proposed structure.

reactant | thiophene-2-acetonitrile | 0.7 mol, 86 g | S1C(=CC=C1)CC#N | C6H5NS
reactant | sodium hydroxide | 0.7 mol, 28 g | [OH-].[Na+]
reactant | methyl nitrite | 0.7 mol | N(=O)OC | CH3NO2
solvent | methanol | 210 ml | CO | CH4O
product | α-hydroxyiminothiophene-2-acetonitrile | 28.6 g, 39% | ON=C(C#N)C=1SC=CC1 | C6H4N2OS
